US03954754
EXAMPLE 71: 6-Cyclobutanecarbonyl-3-isopropylidenehydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine
A solution of 5.8 g of 6-cyclobutanecarbonyl-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine in 50 cc of acetone and 2 drops of glacial acetic acid is heated at reflux on a water bath for 30 minutes. The crude product obtained as a brown oil is crystallized with absolute ethanol. The title compound has a M.P. of 175°-178° (decomp., from acetone/ether).

reactant | 6-cyclobutanecarbonyl-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | 5.8 g | C1(CCC1)C(=O)N1CC2=C(N=NC(=C2)NN)CC1 | C12H17N5O
reactant | acetone | 50 cc | CC(=O)C | C3H6O
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
product | 6-Cyclobutanecarbonyl-3-isopropylidenehydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | C1(CCC1)C(=O)N1CC2=C(N=NC(=C2)NN=C(C)C)CC1 | C15H21N5O
